US07144876B2
3-(3-Bromomethyl-4-chloro-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazole
A solution of 3-(4-chloro-3-methyl-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazole (1.45 g, 4.66 mmol), NBS (0.923 g, 5.19 mmol), AIBN (0.844 g, 5.14 mmol) and CCl4 (300 mL) was refluxed at 80° C. for 2 h. The solution was cooled to room temperature and additional NBS (0.913 g, 5.13 mmol) and AIBN (0.218 g, 1.33 mmol) was added and the solution was refluxed for 1 h. The solution was cooled to room temperature and stirred for 17 h. TLC indicated that the reaction had not occurred so bromine (0.240 mL, 4.67 mmol) was added and the solution was then brought to reflux. While refluxing, the solution was irradiated with a UV lamp (254 nm, 18.4 watts) for 2 h. The solution was cooled to room temperature, filtered and the solvent was removed by rotary evaporation. The residue was purified by flash column chromatography (silica gel, hexanes:dichloromethane, 8:3), to give 0.808 g (44%) of the title compound as a white solid. 1H NMR (CDCl3): 8.24 (d, 1H, J=2.2 Hz), 8.06 (dd, 1H, J=8.5 and 2.2 Hz), 7.63 (d, 1H, J=5.2 Hz), 7.54 (d, 1H, J=8.3 Hz), 7.14 (d, 1H, J=5.2 Hz), 4.66 (s, 2H).

reactant | 3-(4-chloro-3-methyl-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazole | 4.66 mmol, 1.45 g | ClC1=C(C=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl)C | C13H8Cl2N2OS
reactant | NBS | 5.19 mmol, 0.923 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 5.14 mmol, 0.844 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 5.13 mmol, 0.913 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.33 mmol, 0.218 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | bromine | 4.67 mmol, 0.240 mL | BrBr | Br2
solvent | CCl4 | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(3-Bromomethyl-4-chloro-phenyl)-5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazole | 0.808 g, 44% | BrCC=1C=C(C=CC1Cl)C1=NOC(=N1)C=1SC=CC1Cl | C13H7BrCl2N2OS
